US08710000B2
Hexadecanedioic acid mono-tert-butyl ester can be activated with TSTU in similar fashion to the method described in Example 1, Step 6. The product can be reacted with Boc-Lys-OH in DMF at RT for 16 h. After concentrating under vacuum, AcOEt can be added the residue and the mixture can be washed with 0.2 N HCl. The organic phase is then dried over MgSO4 and concentrated under vacuum to yield the crude product, 15-((S)-5-tert-Butoxycarbonylamino-5-carboxypentylcarbamoyl)pentadecanoic acid tert-butyl ester. This can either be used without further purification or purified by flash chromatography. This compound can be activated with TSTU in similar fashion to the method described in Example 1, Step 6 to yield 15-[(S)-5-tert-butoxycarbonylamino-5-(2,5-dioxopyrrolidin-1-yloxycarbonyl) pentylcarbamoyl]pentadecanoic acid tert-butyl ester, and this compound can be coupled to insulin and deprotected to yield the title compound as described in Example 1, Step 7 using prepatative HPLC to isolate the product.

reactant | Hexadecanedioic acid mono-tert-butyl ester | C(C)(C)(C)OC(CCCCCCCCCCCCCCC(=O)O)=O | C20H38O4
reactant | TSTU | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
reactant | Boc-Lys-OH | N([C@@H](CCCCN)C(=O)O)C(=O)OC(C)(C)C | C11H22N2O4
solvent | DMF | CN(C)C=O | C3H7NO
product | 15-((S)-5-tert-Butoxycarbonylamino-5-carboxypentylcarbamoyl)pentadecanoic acid tert-butyl ester | C(C)(C)(C)OC(CCCCCCCCCCCCCCC(NCCCC[C@@H](C(=O)O)NC(=O)OC(C)(C)C)=O)=O | C31H58N2O7
